US06630600B1
Di-isopropylamine (1.1 ml; 7.78 mmole) and dry tetrahydrofuran (35 ml) were mixed and cooled to −78° C. under nitrogen athmosphere. n-Butyllithium (1.6 M in hexane, 4.7 ml; 7.52 mmole) was added slowly and the reaction mixture was stirred for 15 minutes. 2-Ethoxypropionic acid ethyl ester was dissolved in a small amount of dry tetrahydrofuran and added slowly to the LDA mixture. The solution was stirred for 30 minutes at low temperature and then 4-benzyloxybenzaldehyde was added followed after 2 minutes by addition of saturated ammonium chloride solution (20 ml). The mixture was warmed to room temperature and the layers were separated. The aqueous phase was extracted twice with ether and the organic phases were combined and washed with hydrochloric acid (0.3 M, 100 ml) and brine dried with magnesium sulfate and evaporated. Purification of the residue by chromatography on silica gel using ethyl acetate: toluene (1:9) with triethylamine (0.1%) as eluant gave 1.63 g (68%) of 3-(4-benzyloxyphenyl)2-ethoxy-3-hydroxy-2-methyl propanoic acid ethyl ester.

reactant | Di-isopropylamine | 7.78 mmole, 1.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 7.52 mmole, 1.6 M, 4.7 ml | C(CCC)[Li]
reactant | 2-Ethoxypropionic acid ethyl ester | C(C)OC(C(C)OCC)=O | C7H14O3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 4-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 3-(4-benzyloxyphenyl)2-ethoxy-3-hydroxy-2-methyl propanoic acid ethyl ester | 1.63 g, 68% | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)OCC)=O | C21H26O5
